US05635510
1.1 Synthesis of 3-cyano-3-(3,4-dichloro-phenyl)-pentanedioic diethyl ester (No.027F126)
3,4-Dichlorophenylacetonitrile (10 g, 53.75 mmol) was stirred mechanically in THF (50 mL) at -78° C. and treated dropwise with sodium bis-(trimethylsilyl)amide (108 mL, 1 M; 2 eq.). The reaction slurry was allowed to warm to 20° C. and stirred for 3 hours. The solution was cooled to -78° C. and the slurry was treated with ethyl bromoacetate (12 mL, 107 mmol, 2 eq.). The slurry was again allowed to warm to 20° C. and stirred 18 hours. The slurry was dissolved in ethyl ether and washed with water and brine. The organic phase was dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was chromatographed on silica gel (400 g) with 20% ethyl acetate to give 15.85 g (82%) of the title compound.

reactant | 3,4-Dichlorophenylacetonitrile | 53.75 mmol, 10 g | ClC=1C=C(C=CC1Cl)CC#N | C8H5Cl2N
reactant | sodium bis-(trimethylsilyl)amide | 1 M, 108 mL, 2 eq. | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | ethyl bromoacetate | 107 mmol, 12 mL, 2 eq. | BrCC(=O)OCC | C4H7BrO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethyl ether | C(C)OCC | C4H10O
product | 3-cyano-3-(3,4-dichloro-phenyl)-pentanedioic diethyl ester | 15.85 g, 82% | C(C)OC(CC(CC(=O)OCC)(C1=CC(=C(C=C1)Cl)Cl)C#N)=O | C16H17Cl2NO4
